### PR TITLE
[Merged by Bors] - feat(NumberTheory): order of inertia group = ramification index

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/RamificationInertia/Galois.lean [hunk 1]
```diff
@@ -207,4 +211,70 @@ theorem ncard_primesOver_mul_ramificationIdxIn_mul_inertiaDegIn [IsGalois K L] :
...
+    rfl
+  rw [this]
+  refine Nat.card_congr (Subgroup.subgroupOfEquivOfLe ?_).toEquiv.symm
+  intro σ hσ
+  ext x
+  rw [Ideal.pointwise_smul_eq_comap, Ideal.mem_comap]
+  convert P.add_mem_iff_right (inv_mem hσ x) (b := x) using 2
+  simp
+
+-- TODO : get rid of `K` and `L` in the statement (and replace with `[IsGaloisGroup G R S]`)
```
Comment (tb65536) [inline Mathlib/NumberTheory/RamificationInertia/Galois.lean:248]: Just a heads up that this todo is addressed in the changes to `IsGaloisGroup` in this WIP PR: #27053 (just waiting on #30645).

File: Mathlib/NumberTheory/RamificationInertia/Galois.lean [hunk 2]
```diff
@@ -207,4 +211,70 @@ theorem ncard_primesOver_mul_ramificationIdxIn_mul_inertiaDegIn [IsGalois K L] :
...
+  cases nonempty_fintype G
+  have : IsGalois (R ⧸ p) (S ⧸ P) := { __ := Ideal.Quotient.normal (A := R) G p P }
+  have := Ideal.Quotient.finite_of_isInvariant G p P
+  congr 1
+  have : Subgroup.index _ = _ := Nat.card_congr
+    (QuotientGroup.quotientKerEquivOfSurjective (Ideal.Quotient.stabilizerHom P p G)
+      (Ideal.Quotient.stabilizerHom_surjective G p P)).toEquiv
+  rw [← IsGalois.card_aut_eq_finrank, ← this]
+  convert (Ideal.Quotient.stabilizerHom P p G).ker.card_mul_index using 2
+  have : (Ideal.Quotient.stabilizerHom P p G).ker = (P.toAddSubgroup.inertia G).subgroupOf _ := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/RamificationInertia/Galois.lean]: Can you make this a separate lemma and can you add a formulation like this which is slightly stronger:
```
theorem Ideal.inertiaSubgroup_eq_ker : P.toAddSubgroup.inertia G =
    (Ideal.Quotient.stabilizerHom P p G).ker.map (MulAction.stabilizer G P).subtype
```
I've got a proof in #27053, but there's probably a cleaner proof.

File: Mathlib/NumberTheory/RamificationInertia/Galois.lean (hunk 1 above)
Comment (tb65536) [reply Mathlib/NumberTheory/RamificationInertia/Galois.lean:248]: Now here: #30792

File: Mathlib/NumberTheory/RamificationInertia/Galois.lean (hunk 2 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/RamificationInertia/Galois.lean]: @erdOne can you please do this? Otherwise LGTM.

File: Mathlib/NumberTheory/RamificationInertia/Galois.lean [hunk 3]
```diff
@@ -207,4 +211,70 @@ theorem ncard_primesOver_mul_ramificationIdxIn_mul_inertiaDegIn [IsGalois K L] :
...
+open scoped Pointwise
+
+open Algebra
+
+attribute [local instance 1001] Ideal.Quotient.field Module.Free.of_divisionRing in
+lemma ncard_primesOver_mul_card_inertia_mul_finrank (p : Ideal R) [p.IsMaximal]
+    (P : Ideal S) [P.LiesOver p] [P.IsMaximal] [Algebra.IsSeparable (R ⧸ p) (S ⧸ P)] :
+    (p.primesOver S).ncard * Nat.card (P.toAddSubgroup.inertia G) *
+      Module.finrank (R ⧸ p) (S ⧸ P) = Nat.card G := by
+  classical
```
Comment (xroblot) [inline Mathlib/NumberTheory/RamificationInertia/Galois.lean]:
```suggestion
  classical
```

It don't think this is needed

File: Mathlib/NumberTheory/RamificationInertia/Galois.lean [hunk 4]
```diff
@@ -207,4 +211,70 @@ theorem ncard_primesOver_mul_ramificationIdxIn_mul_inertiaDegIn [IsGalois K L] :
...
+  trans (p.primesOver S).ncard * Nat.card (MulAction.stabilizer G P); swap
+  · rw [← IsInvariant.orbit_eq_primesOver R S G p P]
+    simpa using Nat.card_congr (MulAction.orbitProdStabilizerEquivGroup G P)
+  rw [mul_assoc]
+  cases nonempty_fintype G
```
Comment (xroblot) [inline Mathlib/NumberTheory/RamificationInertia/Galois.lean]:
```suggestion
  cases nonempty_fintype G
```

This can be removed too

File: Mathlib/NumberTheory/RamificationInertia/Galois.lean [hunk 5]
```diff
@@ -207,4 +211,70 @@ theorem ncard_primesOver_mul_ramificationIdxIn_mul_inertiaDegIn [IsGalois K L] :
...
+    [MulSemiringAction G L] [IsGaloisGroup G K L]
+    (p : Ideal R) (hp : p ≠ ⊥)
+    (P : Ideal S) [P.LiesOver p] [P.IsMaximal] [Algebra.IsSeparable (R ⧸ p) (S ⧸ P)] :
+    Nat.card (P.toAddSubgroup.inertia G) = Ideal.ramificationIdxIn p S := by
+  letI := IsGaloisGroup.isGalois G K L
+  letI := IsGaloisGroup.finiteDimensional G K L
+  have := (show p.IsPrime from P.over_def p ▸ inferInstance).isMaximal hp
+  have H := ncard_primesOver_mul_card_inertia_mul_finrank (G := G) p P
+  refine mul_right_injective₀ (a := (p.primesOver S).ncard) ?_ ?_
+  · intro e; simp [e, eq_comm, Nat.card_eq_zero, ‹Finite G›.not_infinite] at H
```
Comment (xroblot) [inline Mathlib/NumberTheory/RamificationInertia/Galois.lean]: We have `primesOver_ncard_ne_zero` (which should probably called `ncard_primesOver_ne_zero`) but it does not apply here. Maybe it means that it is not general enough or that another version is needed.

**Review by xroblot — APPROVED** [review]
LGTM. Thanks!

File: Mathlib/NumberTheory/RamificationInertia/Galois.lean [hunk 6]
```diff
@@ -27,11 +28,14 @@ Assume `B / A` is a finite extension of Dedekind domains, `K` is the fraction ri
 
 ## Main results
 
-* `ncard_primesOver_mul_ramificationIdxIn_mul_inertiaDegIn`: Let `p` be a maximal ideal of `A`,
+* `Ideal.ncard_primesOver_mul_ramificationIdxIn_mul_inertiaDegIn`: Let `p` be a prime of `A`,
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/RamificationInertia/Galois.lean:31]: Nothing against adding `Ideal.`, but the link in the doc already works.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

File: Mathlib/NumberTheory/RamificationInertia/Galois.lean (hunk 1 above)
Comment (tb65536) [reply Mathlib/NumberTheory/RamificationInertia/Galois.lean:248]: And here's the refactor of the rest of this file: #30934
